US07473784B2
To a solution of 2-(5-amino-6-(ethylsulfonyl)pyridin-2-yl)-3-(2-fluorophenyl)-3-oxopropanenitrile (presumed 0.951 mmol, 1.0 eq.) and iPrNCS (0.15 mL, 1.43 mmol, 1.5 eq.) in DMF (4.8 mL) under nitrogen at 0° C. was added NaH (95%; 0.0982 g, 3.89 mmol, 4.1 eq.). After 0.75 hr, the cold bath was removed and the reaction was stirred to room temperature for 0.5 hr. At 0° C., iPrNCS (0.1 mL) and NaH (0.050 g) were added and stirred for 0.25 hr. The cold bath was removed, and the reaction was stirred to room temperature overnight. At 0° C., water and EtOAc were added, and separated. The aqueous layer was washed with EtOAc (2×). The aqueous layer was concentrated in vacuo. Silica gel chromatography using CH2Cl2:MeOH (100:1) as eluent afforded 3-(2-fluorophenyl)-2-(2-(isopropylamino)thiazolo[5,4-b]pyridin-5-yl)-3-oxopropanenitrile as a burgundy solid (0.10 g, 29%).

reactant | 2-(5-amino-6-(ethylsulfonyl)pyridin-2-yl)-3-(2-fluorophenyl)-3-oxopropanenitrile | 0.951 mmol, 1.0 eq. | NC=1C=CC(=NC1S(=O)(=O)CC)C(C#N)C(=O)C1=C(C=CC=C1)F | C16H14FN3O3S
reactant | NaH | 3.89 mmol, 0.0982 g, 4.1 eq. | [H-].[Na+]
solvent | DMF | 4.8 mL | CN(C)C=O | C3H7NO
product | 3-(2-fluorophenyl)-2-(2-(isopropylamino)thiazolo[5,4-b]pyridin-5-yl)-3-oxopropanenitrile | FC1=C(C=CC=C1)C(C(C#N)C1=CC=C2C(=N1)SC(=N2)NC(C)C)=O | C18H15FN4OS
